US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-2-(trifluoromethyl)nicotinamide
To a solution of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (95 mg, 0.307 mmol) in N,N-dimethylformamide (5 mL) were added 2-(trifluoromethyl)nicotinic acid (65 mg, 0.337 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (65 mg, 0.337 mmol) and 1-hydroxybenzotriazole (46 mg, 0.337 mmol), and the mixture was stirred at room temperature for 2 hr, heated to 50° C. and stirred for 2 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80→100/0), and precipitated from ethyl acetate/diisopropyl ether to give the title compound (79.6 mg, 54%) as a pale-green powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.307 mmol, 95 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | 2-(trifluoromethyl)nicotinic acid | 0.337 mmol, 65 mg | FC(C1=C(C(=O)O)C=CC=N1)(F)F | C7H4F3NO2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.337 mmol, 65 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.337 mmol, 46 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-2-(trifluoromethyl)nicotinamide | 79.6 mg, 54% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=C(N=CC=C2)C(F)(F)F)=O)C1 | C23H17F3N6O3
